* Z:\home\marcosgatica\facultadUTN\dispositivosElectronicos\trabajosPracticos\tp1\simulacion.asc
* Generated by LTspice 24.1.6 for Windows.
R1 N002 N001 10k
R2 N002 0 4.7k
R3 N002 0 3.3k
V1 N001 0 10v
.op
.backanno
.end
