* Z:\home\marcosgatica\facultadUTN\dispositivosElectronicos\trabajosPracticos\tp2\simulacionDiodo1N4007Inversa.asc
* Generated by LTspice 24.1.7 for Windows.
D1 0 N002 1N4007
R1 N002 N001 1K
V1 N001 0 10
.model D D
.lib C:\users\marcosgatica\AppData\Local\LTspice\lib\cmp\standard.dio
.dc V1 -200 15000 0.1
.backanno
.end
