** sch_path: /home/alejo/Documentos/DE_TP06/inversor.sch
.subckt inversor Vdd in out Vss
*.PININFO in:I Vdd:I Vss:I out:O
XM1 out in Vss Vss sky130_fd_pr__nfet_01v8 L=0.15 W=1.05 nf=1 m=1
XM2 out in Vdd Vdd sky130_fd_pr__pfet_01v8 L=0.15 W=2.1 nf=1 m=1
.ends
