* Z:\home\marcosgatica\facultadUTN\dispositivosElectronicos\trabajosPracticos\tp5\simulaciones\AS2.asc
V1 N001 0 SINE(0 20 50)
R1 N001 N002 {1.5+(5k-p)}
R2 N002 N006 {p}
R3 N004 N002 1k
R4 N003 N001 1k
C1 N006 0 4.7µ
XU1 N003 N005 0 BT151-800R
D1 N004 N005 D
.model D D
.lib C:\users\marcosgatica\Documents\LTspiceXVII\lib\cmp\standard.dio
.SUBCKT BT151-800R A G K ; Philips BT151-800R
XSCR1 A G K 2N5061
+params: Vdrm=800 Itrms=12 Itsm=120 Igt=15mA Vgt=1.5
+ Ihold=20mA Ileak=500uA GRratio=3
.ENDS
.SUBCKT 2N5061 A G K ; Motorola 2N5061 - model default
+params: Vdrm=60 Itrms=0.8A Itsm=10A Igt=200uA Vgt=0.8
+ Ihold=5mA Ileak=50uA Cak=50pF GRratio=4
Q1 2 G K 0 QNG
Q2 1 3 K 0 QNL OFF
Q3 3 1 A 0 QPL OFF
D1 1 2 Drev
D2 A 4 DVA
D3 K 4 DVA
I1 A 1 {Ihold} load
I2 3 K {Ihold} load
RS A 1 1000k
RL A K {Rleak}
C1 A K {Cak}
.param Grbe=(Vgt/Igt)/GRratio
.param Ggain=Ihold/Igt
.param Rleak=Vdrm/Ileak
.model QNL NPN(IS=640F Bf=50 RC=.45 TF=5.95u)
.model QNG NPN(Bf=Ggain Rb=Grbe Vje=Vgt Tf=.3nS Tr=6nS Cje=2pF Cjc=1pF)
.model QPL PNP(IS=640F Bf=50 RC=.45 TF=5.95u)
.model DVA D(Vj=.71 BV=Vdrm Cjo=1p)
.model Drev D(Vfwd=.71)
.ENDS
.step param p list 100 1k 3k 4.9k
.tran 0 1 .96 1m
.backanno
.end
