* Z:\home\marcosgatica\facultadUTN\dispositivosElectronicos\trabajosPracticos\tp4\simulaciones\Sim-estrang.asc
V1 0 N003 7
V2 N002 0 10
J1 N001 N003 0 MPF102A
R2 N002 N001 1k
.model NJF NJF
.model PJF PJF
.lib C:\users\marcosgatica\Documents\LTspiceXVII\lib\cmp\standard.jft
.dc v1 0 7 0.1
.model MPF102A NJF(Beta=1.04m Betatce=-.5 Rd=1 Rs=1 Lambda=2m Vto=-3.41 Vtotc=-2.5m Is=33.57f Isr=322.4f N=1 Nr=2 Xti=3 Alpha=311.7 Vk=243.6 Cgd=1.6p M=.3622 Pb=1 Fc=.5 Cgs=2.414p Kf=11.73E-18 Af=1)
.backanno
.end
